US07115598B2
g) (3S)-1,3-Dihydro-3-(4-chlorophenyl)-4-[(R)-1-(4chlorophenyl)ethyl]-7-phenyl-1,4-diazepine-2,5-dione
Hydrogen peroxide (500 μL, 30% in water) was slowly added to a solution of (3S)-1,3,6,7-tetrahydro-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-phenyl-6-(phenylseleno)-1,4-diazepine-2,5-dione (300 mg, 0.49 mmol) in tetrahydrofuran (6 mL). After 20 min., the solvent was evaporated under reduced pressure and the residue was partitioned between 1N sodium hydrogenocarbonate (20 mL) and ethyl acetate (50 mL), dried (Na2SO4) and evaporated. Purification by column chromatography (AcOEt/hexanes/CH2Cl2, 1:2:2) afforded the title compound (200 mg, 85%) as a colorless powder: 1H NMR (400 MHz, CDCl3) δ 1.70 (d, J=7.2 Hz, 3H, CH3), 5.28 (s, 1H, CH), 5.70 (d, J=1.6 Hz, 1H, CH), 6.35 (q, J=7.2 Hz, 1H, CH), 6.83 (d, J=8.8 Hz, 2H, ArH), 7.09 (d, J=8.8 Hz, 2H, ArH), 7.18–7.42 (m, 7H, ArH), 7.53 (d, J=8.8 Hz, 2H, ArH). Mass spectrum (LCMS, ESI pos.): Calcd for C25H20Cl2N2O2: 450.0; found: 451.0 (M+H)+.

reactant | Hydrogen peroxide | 500 μL | OO | H2O2
reactant | (3S)-1,3,6,7-tetrahydro-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-phenyl-6-(phenylseleno)-1,4-diazepine-2,5-dione | 0.49 mmol, 300 mg | ClC1=CC=C(C=C1)[C@H]1C(NC(C(C(N1[C@H](C)C1=CC=C(C=C1)Cl)=O)[Se]C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H26Cl2N2O2Se
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (3S)-1,3-Dihydro-3-(4-chlorophenyl)-4-[(R)-1-(4chlorophenyl)ethyl]-7-phenyl-1,4-diazepine-2,5-dione | 200 mg, 85% | ClC1=CC=C(C=C1)[C@H]1C(NC(=CC(N1[C@H](C)C1=CC=C(C=C1)Cl)=O)C1=CC=CC=C1)=O | C25H20Cl2N2O2
